US05753682
4. 2-Methyl-4-(2-methylimidazol-1-yl)benzyl alcohol
Prepared from 2-methylimidazole and ethyl 4-fluoro-2-methylbenzoate.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | ethyl 4-fluoro-2-methylbenzoate | FC1=CC(=C(C(=O)OCC)C=C1)C | C10H11FO2
product | 2-Methyl-4-(2-methylimidazol-1-yl)benzyl alcohol | CC1=C(CO)C=CC(=C1)N1C(=NC=C1)C | C12H14N2O
